US06649611B2
(2R,5S)-2-{4-Chloro-2-[(2-diethylamino-ethylamino)-methyl]-phenoxy}-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone
To a solution of (2R,5S)-5-chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzaldehyde (0.100 g, 0.25 mmol) in 10:1 dichloroethane acetic acid (2.2 mL) was added (diethylamino)ethylamine (0.088 mL, 0.625 mmol) and the resulting solution was stirred for 1 hour at ambient temperature. To this was added sodium cyanoborohydride (0.0094 g, 0.15 mmol) and the reaction was stirred overnight at ambient temperature. Upon completion water was added and the mixture was basified with solid sodium bicarbonate (pH>10). The product was extracted with dichloromethane (2×) and diethyl ether (2×). The combined organics were dried over magnesium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel gave the title compound (0.039 g, x 30% yield)

reactant | (2R,5S)-5-chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzaldehyde | 0.25 mmol, 0.100 g | ClC=1C=CC(=C(C=O)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C22H24ClFN2O3
reactant | dichloroethane acetic acid | 2.2 mL | C(C)(=O)O.ClC(C)Cl
reactant | (diethylamino)ethylamine | 0.625 mmol, 0.088 mL | C(C)N(CC)CCN | C6H16N2
reactant | sodium cyanoborohydride | 0.15 mmol, 0.0094 g | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | pH>10 | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | (2R,5S)-2-{4-Chloro-2-[(2-diethylamino-ethylamino)-methyl]-phenoxy}-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.039 g, 30% yield | ClC1=CC(=C(OCC(=O)N2[C@@H](CN([C@H](C2)C)CC2=CC=C(C=C2)F)C)C=C1)CNCCN(CC)CC | C28H40ClFN4O2
